US05616599
72(a) Ethyl 1-[(2'-t-butoxycarbonylbiphenyl-4-yl)methyl]-4-(1-hydroxy-1-methylethyl)-2-propylimidazole-5-carboxylate
Following a procedure similar to that described in Example 68(a), but using 4.80 g of ethyl 4-(1-hydroxy-1-methylethyl)-2-propylimidazole-5-carboxylate (prepared as described in Preparation 9), 6.94 g of t-buryl 4'-bromomethylbiphenyl-2-carboxylate and 2.28 g of potassium t-butoxide, 7.50 g of the title compound were obtained as crystals, melting at 90°-91° C.

reactant | ethyl 4-(1-hydroxy-1-methylethyl)-2-propylimidazole-5-carboxylate | 4.80 g | OC(C)(C)C=1N=C(NC1C(=O)OCC)CCC | C12H20N2O3
reactant | 4'-bromomethylbiphenyl-2-carboxylate | 6.94 g | BrCC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)[O-]
reactant | potassium t-butoxide | 2.28 g | CC(C)([O-])C.[K+]
product | Ethyl 1-[(2'-t-butoxycarbonylbiphenyl-4-yl)methyl]-4-(1-hydroxy-1-methylethyl)-2-propylimidazole-5-carboxylate | 7.50 g | C(C)(C)(C)OC(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1C(=O)OCC)C(C)(C)O)CCC | C30H38N2O5
